US07235699B2
Preparation of 2-methyl-butoxy-benzene (o-cresyl Butyl Ether)
540 g (5.0 mol) o-cresol, 500 g n-butanol and 560 g (5.0 mol) 50% (m/m) potassium hydroxide solution are initially introduced and heated under reflux, the water being removed azeotropically. 463 g (5.0 mol) n-butyl chloride are then metered in under reflux in the course of 2 h, further water being cycled out. After metering, the reaction mixture is stirred for a further 2 h, cooled to 80° C., hydrolysed with 800 g water and adjusted to pH 4 with 50% (m/m) sulphuric acid. The phases are separated at 70° C. After distillation, 794 g product with a purity of 94% is obtained.

reactant | o-cresol | 5.0 mol, 540 g | C1(=CC=CC=C1O)C | C7H8O
reactant | potassium hydroxide | 5.0 mol, 560 g | [OH-].[K+]
reactant | n-butyl chloride | 5.0 mol, 463 g | C(CCC)Cl | C4H9Cl
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | n-butanol | 500 g | C(CCC)O | C4H10O
solvent | water | 800 g | O | H2O
product | 2-methyl-butoxy-benzene | CC(COC1=CC=CC=C1)CC | C11H16O
